************************************************************************
* auCdl Netlist:
* 
* Library Name:  DVD
* Top Cell Name: PROJECT_FINAL_CHANGE
* View Name:     schematic
* Netlisted on:  Nov  7 18:15:54 2025
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: DVD
* Cell Name:    PROJECT_FINAL_CHANGE
* View Name:    schematic
************************************************************************

.SUBCKT PROJECT_FINAL_CHANGE A B C D1 D2 D3 D4 D5 D6 D7 Gnd Vdd
*.PININFO D1:I D2:I D3:I D4:I D5:I D6:I D7:I Vdd:I A:O B:O C:O Gnd:B
XM52 net0137 D2 Vdd Vdd psvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM51 net81 D3 Vdd Vdd psvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM50 net0157 D6 Vdd Vdd psvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM49 net0149 D4 Vdd Vdd psvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM48 net62 D5 Vdd Vdd psvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM42 C net0158 Vdd Vdd psvtlp w=0.81 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM41 B net29 Vdd Vdd psvtlp w=0.54 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM30 net0158 D1 net0112 Vdd psvtlp w=1.305 l=0.06 nfing=3 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM29 net0158 net0137 net0112 Vdd psvtlp w=1.305 l=0.06 nfing=3 sense=0 ngcon=1 
+ m=1 accurateFlow=0
XM28 net0158 net81 net0112 Vdd psvtlp w=1.305 l=0.06 nfing=3 sense=0 ngcon=1 
+ m=1 accurateFlow=0
XM27 net0158 net0149 net0112 Vdd psvtlp w=1.305 l=0.06 nfing=3 sense=0 ngcon=1 
+ m=1 accurateFlow=0
XM26 net0112 D3 net0127 Vdd psvtlp w=1.305 l=0.06 nfing=3 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM25 net0112 net0149 net0127 Vdd psvtlp w=1.305 l=0.06 nfing=3 sense=0 ngcon=1 
+ m=1 accurateFlow=0
XM24 net0127 D5 net38 Vdd psvtlp w=1.305 l=0.06 nfing=3 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM23 net0158 net0157 net38 Vdd psvtlp w=0.43 l=0.06 nfing=1 sense=0 ngcon=1 
+ m=1 accurateFlow=0
XM22 net38 D7 Vdd Vdd psvtlp w=1.305 l=0.06 nfing=3 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM18 net29 D2 net90 Vdd psvtlp w=1.08 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM17 net90 D3 net30 Vdd psvtlp w=1.08 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM15 net29 net0149 net30 Vdd psvtlp w=0.54 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM13 net29 net62 net30 Vdd psvtlp w=0.54 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM11 net30 D6 net91 Vdd psvtlp w=1.08 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM10 net91 D7 Vdd Vdd psvtlp w=1.08 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM9 A net17 Vdd Vdd psvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM3 net17 D4 net92 Vdd psvtlp w=1.08 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM2 net92 D5 net93 Vdd psvtlp w=1.08 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM1 net93 D6 net94 Vdd psvtlp w=1.08 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM0 net94 D7 Vdd Vdd psvtlp w=1.08 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM53 net0137 D2 Gnd Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM47 net81 D3 Gnd Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM46 net0157 D6 Gnd Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM45 net0149 D4 Gnd Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM44 net62 D5 Gnd Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM43 C net0158 Gnd Gnd nsvtlp w=0.405 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM40 B net29 Gnd Gnd nsvtlp w=0.27 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM39 net86 D1 Gnd Gnd nsvtlp w=0.81 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM38 net87 net0137 net86 Gnd nsvtlp w=0.81 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM37 net88 net81 net87 Gnd nsvtlp w=0.81 l=0.06 nfing=2 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM36 net0142 net0149 net88 Gnd nsvtlp w=0.81 l=0.06 nfing=2 sense=0 ngcon=1 
+ m=1 accurateFlow=0
XM35 net0148 D3 Gnd Gnd nsvtlp w=0.405 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM34 net0142 net0149 net0148 Gnd nsvtlp w=0.405 l=0.06 nfing=1 sense=0 ngcon=1 
+ m=1 accurateFlow=0
XM33 net0142 D5 Gnd Gnd nsvtlp w=0.205 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM32 net0158 net0157 net0142 Gnd nsvtlp w=0.81 l=0.06 nfing=2 sense=0 ngcon=1 
+ m=1 accurateFlow=0
XM31 net0158 D7 Gnd Gnd nsvtlp w=0.16 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM21 net35 D2 Gnd Gnd nsvtlp w=0.405 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM20 net35 D3 Gnd Gnd nsvtlp w=0.405 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM19 net137 net0149 net35 Gnd nsvtlp w=0.405 l=0.06 nfing=1 sense=0 ngcon=1 
+ m=1 accurateFlow=0
XM16 net29 net62 net137 Gnd nsvtlp w=0.405 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM12 net29 D7 Gnd Gnd nsvtlp w=1.08 l=0.06 nfing=3 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM14 net29 D6 Gnd Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM8 A net17 Gnd Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM7 net17 D4 Gnd Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM6 net17 D5 Gnd Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM5 net17 D7 Gnd Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
XM4 net17 D6 Gnd Gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
.ENDS

